US07759373B2
To a solution of 2-(2-formylthiophen-3-yl)-5-ethyl-4-(3-pyridyl)imidazole (68 mg) in tetrahydrofuran (5 ml) was added dropwise 3M methyl magnesium bromide (0.24 ml, diethyl ether solution) under argon atmosphere in an ice bath, and the mixture was stirred at the same temperature for 30 minutes. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (solvent: chloroform:methanol=20:1) to obtain 2-[2-(1-hydroxyethyl)thiophen-3-yl]-5-ethyl-4-(3-pyridyl)-imidazole dihydrochloride (60 mg) as orange brownish powder.

reactant | 2-(2-formylthiophen-3-yl)-5-ethyl-4-(3-pyridyl)imidazole | 68 mg | C(=O)C=1SC=CC1C=1NC(=C(N1)C=1C=NC=CC1)CC | C15H13N3OS
reactant | methyl magnesium bromide | 3M, 0.24 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[2-(1-hydroxyethyl)thiophen-3-yl]-5-ethyl-4-(3-pyridyl)-imidazole dihydrochloride | 60 mg | Cl.Cl.OC(C)C=1SC=CC1C=1NC(=C(N1)C=1C=NC=CC1)CC | InChI=1S/C16H17N3OS.2ClH/c1-3-13-14(11-5-4-7-17-9-11)19-16(18-13)12-6-8-21-15(12)10(2)20;;/h4-10,20H,3H2,1-2H3,(H,18,19);2*1H
